US09023858B2
E) N-[2-({4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydrothieno[3,4-d]pyrimidin-2-yl}sulfanyl)ethyl]acetamide
2-[(2-Aminoethyl)sulfanyl]-3-[4-(2,2,2-trifluoroethoxy)phenyl]thieno[3,4-d]pyrimidin-4(3H)-one hydrochloride (0.33 g) was suspended in tetrahydrofuran (30 ml), triethylamine (0.31 ml), acetic anhydride (0.28 ml) and 4-dimethylaminopyridine (37 mg) were added successively thereto, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate. The extract was washed successively with saturated aqueous citric acid solution, water and saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained pale-yellow solid was purified by silica gel column chromatography (ethyl acetate/hexane) to give a colorless solid. This solid was recrystallized from ethyl acetate/hexane to give the title compound (0.22 g) as a colorless solid.

reactant | 2-[(2-Aminoethyl)sulfanyl]-3-[4-(2,2,2-trifluoroethoxy)phenyl]thieno[3,4-d]pyrimidin-4(3H)-one hydrochloride | 0.33 g | Cl.NCCSC=1N(C(C=2C(N1)=CSC2)=O)C2=CC=C(C=C2)OCC(F)(F)F
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.28 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 37 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[2-({4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydrothieno[3,4-d]pyrimidin-2-yl}sulfanyl)ethyl]acetamide | 0.22 g | O=C1C=2C(N=C(N1C1=CC=C(C=C1)OCC(F)(F)F)SCCNC(C)=O)=CSC2 | C18H16F3N3O3S2
